US08008307B2
Step b: (1R,2S,3R,5R)-3-({4-Chloro-6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-1,3,5-triazin-2-yl}amino)-5-(hydroxymethyl)cyclopentane-1,2-diol
A mixture of 4,6-dichloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine (735 mg, 2.61 mmol), (1R,2S,3R,5R)-3-amino-5-(hydroxymethyl)cyclopentane-1,2-diol hydrochloride (400. mg, 218 mmol), potassium carbonate (602 mg, 4.36 mmol) and 1,4-dioxane (3.60 mL) in a sealed tube was heated to 150° C. for 20 mins using MWI. Silica gel chromatography eluting with a gradient of 2 to 7% MeOH in DCM afforded the title compound as a white solid (750. mg, 88%). LC/MS: Rt=1.42 min, ES+ 392 (FA standard).

reactant | 4,6-dichloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine | 2.61 mmol, 735 mg | ClC1=NC(=NC(=N1)Cl)N[C@H]1CCC2=CC=CC=C12 | C12H10Cl2N4
reactant | (1R,2S,3R,5R)-3-amino-5-(hydroxymethyl)cyclopentane-1,2-diol hydrochloride | 218 mmol | Cl.N[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O
reactant | potassium carbonate | 4.36 mmol, 602 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3.60 mL | O1CCOCC1 | C4H8O2
product | (1R,2S,3R,5R)-3-({4-Chloro-6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-1,3,5-triazin-2-yl}amino)-5-(hydroxymethyl)cyclopentane-1,2-diol | 88% | ClC1=NC(=NC(=N1)N[C@H]1CCC2=CC=CC=C12)N[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O | C18H22ClN5O3
